US06194409B1
Sodium borohydride (0.2 g) was added in small portions to 3 mL of dry 2-propanol in a nitrogen atmosphere. To this mixture was added dropwise a solution of 1.0 g of 2-(benzylimino-methyl)-phenol in 3 mL of 2-propanol. After complete addition, stirring was continued for 1 h. Then water was added in order to decompose excess borohydride, and the volatiles were removed in vacuo. The residue was redissolved in ethyl acetate, washed with water, dried (sodium sulfate) and concentrated yielding 0.9 g of 2-(benzylamino-methyl)-phenol as an oil. EI-MS: 213 (M+).

reactant | Sodium borohydride | 0.2 g | [BH4-].[Na+]
reactant | 2-(benzylimino-methyl)-phenol | 1.0 g | C(C1=CC=CC=C1)N=CC1=C(C=CC=C1)O | C14H13NO
reactant | water | O | H2O
reactant | borohydride | [BH4-]
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
product | 2-(benzylamino-methyl)-phenol | 0.9 g | C(C1=CC=CC=C1)NCC1=C(C=CC=C1)O | C14H15NO
